US07125952B2
Preparation of 2,2-dicarbaldehyde biphenyl
2-bromo benzaldehyde (266 g, 1.35 mol) was heated to 185° C. and then copper powder (201.16 g, 3.17 mmol) was added portion wise to the liquid. After 30 mins, DMF (100 mL) was added to the solution and heating maintained for a further 8 h. After cooling to room temperature the product was dissolved in toluene and filtered through celite. Purification via column chromatography eluting with Hexane:EtOAc (6:1) gave a foam. Recrystallisation from Et2O/hexane gave 73.27 g (50% yield); 1H NMR (CDCl3) 9.81 (2H, s), 8.04 (2H, d, J 7.6), 7.65 (2H, dt, J 1.2, 7.2), 7.58 (2H, t, J 7.2), 7.34 (2H, d, J 7.6); 13C NMR 114.05, 119.97, 121.68, 123.54, 140.54.

reactant | 2-bromo benzaldehyde | 1.35 mol, 266 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | copper | 3.17 mmol, 201.16 g | [Cu] | Cu
product | biphenyl | 50% yield | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
